US06660744B1
A mixture of 2-chloro-1-methyl-benzimidazole (0.639 g, 3.84 mmol) and 4-bromoaniline (0.710 g, 4.12 mmol) was heated at 170° C. for 21 h. The resulting brown solid was cooled to room temperature, washed with three 5-mL portions of heptane, and then triturated with toluene to afford N2-(4-bromophenyl)-1-methyl-1H-benzo[d]imidazol-2-amine (1.120 g, 90%) as a brown powder. RP-HPLC (25 to 100% CH3CN in 0.1 N aqueous ammonium acetate over 10 min at 1 mL/min using a Hypersil HS C18, 250×4.6 mm column) tr=10.85 min, 96%; m/z 302 (MH+).

reactant | 2-chloro-1-methyl-benzimidazole | 3.84 mmol, 0.639 g | ClC1=NC2=C(N1C)C=CC=C2 | C8H7ClN2
reactant | 4-bromoaniline | 4.12 mmol, 0.710 g | BrC1=CC=C(N)C=C1 | C6H6BrN
product | N2-(4-bromophenyl)-1-methyl-1H-benzo[d]imidazol-2-amine | 1.120 g, 90% | BrC1=CC=C(C=C1)NC1=NC2=C(N1C)C=CC=C2 | C14H12BrN3
